US04824954
Step A: Preparation of diethyl 3-isopropylamino-2-pentenedioate:
Isopropylamine (60 ml, 0.712 mol) was added slowly to diethyl 1,3-acetonedicarboxylate (120 g, 0.5934 mol) with stirring at -18° C. After 24 hours at room temperature, the excess amine and water were removed under rotary evaporation and finally by azeotropic distillation with benzene to give a light yellow oil. It was kugelrohr distilled to give 52 g of light yellow oil as product (30%), nD25 1.4887.

reactant | Isopropylamine | 0.712 mol, 60 ml | C(C)(C)N | C3H9N
reactant | diethyl 1,3-acetonedicarboxylate | 0.5934 mol, 120 g | CCOC(=O)CC(=O)CC(=O)OCC | C9H14O5
product | diethyl 3-isopropylamino-2-pentenedioate | 52 g | C(C)(C)NC(=CC(=O)OCC)CC(=O)OCC | C12H21NO4
